US07348425B2
A solution of methyl 11-cyclohexyl-6-hydroxy-8-methoxy-6H-isoindolo[2,1-a]indole-3-carboxylate (2.9 g, 7.4 mmol), methyl 2-(dimethoxyphosphoryl)acrylate (2.6 g, 11 mmol), cesium carbonate (3.6 g, 11 mmol) in DMF (20 mL) was heated at 60° C. for 2 h and cooled to rt. The stirring reaction mixture was diluted with H2O (50 mL) and the precipitates were collected by filtration to yield dimethyl 13-cyclohexyl-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6,10-dicarboxylate (3.3 g, 7.1 mmol, 97%) as a yellow solid which was used without further purification. LCMS: m/e 460 (M+H)+, ret time 3.35 min, column B, 3 minute gradient.

reactant | methyl 11-cyclohexyl-6-hydroxy-8-methoxy-6H-isoindolo[2,1-a]indole-3-carboxylate | 7.4 mmol, 2.9 g | C1(CCCCC1)C1=C2N(C3=CC(=CC=C13)C(=O)OC)C(C1=CC(=CC=C12)OC)O | C24H25NO4
reactant | methyl 2-(dimethoxyphosphoryl)acrylate | 11 mmol, 2.6 g | COP(=O)(OC)C(C(=O)OC)=C | C6H11O5P
reactant | cesium carbonate | 11 mmol, 3.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | dimethyl 13-cyclohexyl-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6,10-dicarboxylate | 7.1 mmol, 3.3 g, 97% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)OC)C=C(C=C1)OC)C(=O)OC | C28H29NO5
